US06153768
Synthesis of 4-(3-hydroxyphenyl)-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran
Under nitrogen atmosphere 3-bromomagnesium phenyl trimethylsilyl ether was prepared from 3-bromophenyl trimethylsilyl ether (629 mg, 2.1 mmol) and magnesium turning (52 mg, 2.1 mmol) in dry tetrahydrofuran (1.5 ml) and then cooled to -78° C. 7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-benzopyran-4-one (250 mg, 0.7 mmol) dissolved in dry tetrahydrofuran (2 ml) was slowly added dropwise thereto and then stirred for one hour. The reaction solution was quenched with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to remove the organic solvent. The concentrate was separated by column chromatography (n-hexane:ethyl acetate=4:1) to obtain 283 mg (yield: 92%) of the title compound as a foam.

reactant | 3-bromophenyl trimethylsilyl ether | 2.1 mmol, 629 mg | C[Si](C)(C)OC1=CC(=CC=C1)Br | C9H13BrOSi
reactant | magnesium | 2.1 mmol, 52 mg | [Mg] | Mg
reactant | 7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-benzopyran-4-one | 0.7 mmol, 250 mg | COCOC1=CC2=C(C(C(CO2)C2=CC=C(C=C2)OCOC)=O)C=C1 | C19H20O6
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(3-hydroxyphenyl)-4-hydroxy-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 283 mg, yield: 92% | OC=1C=C(C=CC1)C1(C(COC2=C1C=CC(=C2)OCOC)C2=CC=C(C=C2)OCOC)O | C25H26O7
